US07309701B2
0.525 g of ammonium formate and 0.022 g of palladium hydroxide were added to 0.4 g of N-(2,4-dichlorobenzyl)-3-oxo-6-[4-(benzyloxy)phenyl]-2,3-dihydropyridazine-4-carboxamide dissolved in 10 cm3 of methanol. The reaction medium was heated and maintained at reflux for 2 hours. After cooling, the reaction medium was suction-filtered through a sinter funnel and the insoluble material was rinsed again with three times 10 cm3 of hot methanol. The organic phase was evaporated under reduced pressure (2 kPa; 45° C.). The residue was recrystallized from methanol. After filtration through a sinter funnel, washing with twice 10 cm3 of methanol and oven-drying under reduced pressure (10 kPa; 50° C.), 0.022 g of N-benzyl-3-oxo-6-[4-(hydroxy)phenyl]-2,3-dihydropyridazine-4-carboxamide was obtained in the form of a yellow solid melting at a temperature above 260° C.

reactant | ammonium formate | 0.525 g | C(=O)[O-].[NH4+]
reactant | N-(2,4-dichlorobenzyl)-3-oxo-6-[4-(benzyloxy)phenyl]-2,3-dihydropyridazine-4-carboxamide | 0.4 g | ClC1=C(CNC(=O)C=2C(NN=C(C2)C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)C=CC(=C1)Cl | C25H19Cl2N3O3
solvent | methanol | 10 cm3 | CO | CH4O
catalyst | palladium hydroxide | 0.022 g | [OH-].[Pd+2].[OH-]
product | N-benzyl-3-oxo-6-[4-(hydroxy)phenyl]-2,3-dihydropyridazine-4-carboxamide | 0.022 g | C(C1=CC=CC=C1)NC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)O)=O | C18H15N3O3
